US07713994B2
(4Z)-4-({[4-(Morpholin-4-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione (3)
Using the procedure described for the preparation of example 14, 100 mg (15% yield) of a yellow solid from 300 mg (1.47 mmol) of (4E)-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione and 4-morpholin-4-ylmethyl-phenylamine 283.5 mg (1.47 mmol); mp 221-2MS (ESI) m/z 463.1 (M−1).

reactant | (4E)-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 1.47 mmol, 300 mg | CO\C=C/1\C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 4-morpholin-4-ylmethyl-phenylamine | 1.47 mmol, 283.5 mg | N1(CCOCC1)CC1=CC=C(C=C1)N | C11H16N2O
product | (4Z)-4-({[4-(Morpholin-4-ylmethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 100 mg, 15% yield | N1(CCOCC1)CC1=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O | C21H21N3O3
